US04795755
A solution of methyl 5-[3-(2-[2,2,2-trifluoroethyl]guanidino)-1,2,4-triazol-1-yl]valerimidate (1 g.) in MeOH (12 ml.) and ammonium chloride (0.162 g.) was stirred for 3 hours at room temperature. The solvent was removed to give 5-[3-(2-[2,2,2-trifluoroethyl]guanidino)-1,2,4-triazol-1-yl]valeramidine hydrochloride as a yellow gum, which was used without further purification.

reactant | methyl 5-[3-(2-[2,2,2-trifluoroethyl]guanidino)-1,2,4-triazol-1-yl]valerimidate | 1 g | FC(CN=C(NC1=NN(C=N1)CCCCC(OC)=N)N)(F)F | C11H18F3N7O
reactant | ammonium chloride | 0.162 g | [Cl-].[NH4+]
solvent | MeOH | 12 ml | CO | CH4O
product | 5-[3-(2-[2,2,2-trifluoroethyl]guanidino)-1,2,4-triazol-1-yl]valeramidine hydrochloride | Cl.FC(CN=C(NC1=NN(C=N1)CCCCC(=N)N)N)(F)F | InChI=1S/C10H17F3N8.ClH/c11-10(12,13)5-17-8(16)19-9-18-6-21(20-9)4-2-1-3-7(14)15;/h6H,1-5H2,(H3,14,15)(H3,16,17,19,20);1H
